US04377580
A mixture of diethyl [(6-amino-4-quinazolinylamino)methylene]propanedioate (3.03 g), pyridine (3.63 g) and dichloromethane (93 ml) was ice-cooled. To the mixture was added acetic anhydride (1.88 g). The reaction mixture was stirred for 30 minutes under ice-cooling and then for 2 hours and 15 minutes at ambient temperature. Ice water was added to the mixture. The resultant mixture was extracted with chloroform. The organic layer was washed three times with water and with aqueous solution saturated with sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a residue, which was purified by a column chromatography on silica gel (developing solvent: chloroform) and recrystallized from chloroform, ethyl acetate and hexane to give crystalline diethyl [(6-acetamido-4-quinazolinylamino)methylene]-propanedioate (2.2 g).

reactant | diethyl [(6-amino-4-quinazolinylamino)methylene]propanedioate | 3.03 g | NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OCC)C(=O)OCC | C16H18N4O4
reactant | pyridine | 3.63 g | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.88 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 93 ml | ClCCl | CH2Cl2
product | diethyl [(6-acetamido-4-quinazolinylamino)methylene]-propanedioate | 2.2 g | C(C)(=O)NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OCC)C(=O)OCC | C18H20N4O5
